* =================================================================
* FLUXGATE SENSOR WITH REALISTIC AD633 INTEGRATION MODEL
* =================================================================
* Physical Architecture:
* 1) Core Excitation: Forced AC magnetic saturation at 20 kHz.
* 2) Sensing Winding: Induces voltage spikes, then attenuated to fit IC specs.
* 3) AD633 Multiplier: Multiplies sense signal by 40 kHz reference (divided by 10V).
* 4) Low-Pass Filter: Extracts the final stabilized DC measurement voltage.
* =================================================================

* --- CORE GEOMETRY & MAGNETIC PARAMETERS ---
* Nexc: Number of turns of the excitation winding [dimensionless]
.param Nexc=50
* Npick: Number of turns of the pickup/sense winding [dimensionless]
.param Npick=100
* Nmeas: Number of turns of the measurement/primary circuit [dimensionless]
.param Nmeas=1
* Ae: Effective cross-sectional area of the magnetic core [m^2]
.param Ae=100u
* Le: Mean magnetic path length of the core [meters, m]
.param Le=0.1
* Bsat: Saturation magnetic flux density of the core material [Tesla, T]
.param Bsat=0.35
* Hsat: Saturation magnetic field strength intensity [Ampere/meter, A/m]
.param Hsat=150
* R_excitation: Series resistance of the excitation circuit [Ohm]
.param R_excitation=10

* --- PRIMARY CIRCUIT (CURRENT TO BE MEASURED) ---
* I_measure: The DC input current passing through the sensor [Ampere, A].
.param I_measure=0.0


* --- AC EXCITATION CIRCUIT (20 kHz) ---
Vexc exc 0 SINE(0 10 20k)
Rexc exc 0 {R_excitation}

* --- MAGNETIC BEHAVIORAL CORE EQUATIONS ---
* Bphi: Calculates the total flux [Weber, Wb] based on Htot (1V=1Wb)
Bphi phi 0 V = {Ae} * {Bsat} * tanh((( {Nexc}*(V(exc)/{R_excitation}) + ({Nmeas}*{I_measure}) ) / {Le}) / {Hsat})

* --- PICKUP / SENSE CIRCUIT (OUTPUT) ---
* Faraday's Law of Induction: V_induced = Npick * d(Phi)/dt [Volts, V]
Epick out_raw 0 VALUE = { {Npick} * ddt(V(phi)) }

* Attenuation network to scale ideal spikes down below +/-10V for the IC
Eattenuate out 0 VALUE = { V(out_raw) / 10 }
Rload out 0 1k

* --- SYNCHRONOUS DEMODULATOR STAGE ---
* Vref: Reference voltage source operating at 2f (40 kHz), 1V Peak amplitude [Volts, V]
Vref ref 0 SINE(0 1 40k)

* Bmultiplier: Models the transfer function: W = (X * Y) / 10V
* Integrated with a hard-limit clipper at +/-13.5V to simulate rail saturation (+/-15V supply)
Bmultiplier v_mult 0 V = limit( (V(out) * V(ref)) / 10, -13.5, 13.5 )

* --- LOW-PASS FILTER (LPF) ---
* Cutoff frequency: f_c = 1 / (2 * pi * Rf * Cf) ~= 159 Hz
Rf v_mult v_dc 10k
Cf v_dc 0 100n

* --- MONITORING NODES FOR B-H GRAPH PLOTTING ---
Bh h_test 0 V = ( {Nexc}*(V(exc)/{R_excitation}) + ({Nmeas}*{I_measure}) ) / {Le}
Bb b_test 0 V = {Bsat} * tanh(V(h_test) / {Hsat})


* --- HIGH-PRECISION SIMULATION SETTINGS ---
.tran 0 5m 4.8m 10n
.options plotwinsize=0
.options method=trap
.options trtol=1
.options reltol=1e-5
.options chgtol=1e-15

.end
